US09023489B2
3-Methylphenyl borate (1.3 mmol), 2-chloro-3,7-dimethylquinoline (1 mmol), tetrakis(triphenylphosphine)palladium(O) (0.05 mmol) and potassium carbonate (3 mmol) were dissolved in THF (30 mL) and H2O (10 mL). The resulting solution was stirred in a bath at 100° C. for 24 hours. After completion of the reaction, the THF and the toluene were removed. The reaction mixture was extracted with dichloromethane and water. The extract was distilled under reduced pressure and purified by silica gel column chromatography. The eluate was distilled under reduced pressure and recrystallized from dichloromethane and petroleum ether to obtain a precipitate. The precipitate was filtered to yield 2-(3-methylphenyl)-3,7-dimethylquinoline as a solid.

reactant | 3-Methylphenyl borate | 1.3 mmol | B(OC1=CC(=CC=C1)C)([O-])[O-]
reactant | 2-chloro-3,7-dimethylquinoline | 1 mmol | ClC1=NC2=CC(=CC=C2C=C1C)C | C11H10ClN
reactant | potassium carbonate | 3 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.05 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-(3-methylphenyl)-3,7-dimethylquinoline | CC=1C=C(C=CC1)C1=NC2=CC(=CC=C2C=C1C)C | C18H17N
